Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Constipation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old male with a recent diagnosis of 
multiple myeloma in ___ with T4 plasmacytoma s/p spinal 
fusion and XRT, now undergoing Velcade/Decadron C4 who presents 
with severe back pain and constipation.  He reports that he has 
felt contipated for several days.  He saw his Oncologist on 
___ for C4D1 of his chemotherapy, also receiving Zometa.  He 
felt well at that time, but later in the day after taking Senna 
felt that his abdomen was "going to explode".  He then developed 
severe back pain which he described as a tight band around his 
lower back.  The pain radiated down both legs and feel like 
"muscle cramps".  He contacted his Oncologist and was instructed 
to visit the ED.
.
In the ED, his initial vitals were T 98.4, HR 116, BP 142/86, RR 
16, and SpO2 98% on RA.  He did not recall any recent trauma.  
He denied any bowel or bladder incontinence or any saddle 
anesthesias.  He has had moderate N/V since beginning 
chemotherapy.  He notes that he was taking Morphine XR until 4 
weeks ago, and was off narcotic pain meds completely for one 
week, using only Acetaminophen.  He then started needing 
Dilaudid 2 mg at bedtime over the last two weeks, taking it 
nightly for the past week.  His last bowel movement was 7 days 
ago.  At home, he tried stool softeners and laxatives without 
effect, but he has not been on a regular bowel regimen since 
stopping Morphine XR a few weeks ago.
.
Labs showed anemia with Hct 33.9, low platelets at 81, 
hypokalemia with K 3.2, and Ca 8.3.  He was given NS 2L IV and 
KCl 40 mEq IV once.  Bedside US did not show evidence of AAA.  
CT abdomen showed marked fecal loading in the ascending and 
transverse colon, normal bowel gas in the sigmoid, and a mostly 
collapsed rectum.  MRI ___ did not show any acute etiology 
for his back pain.  He was given a soap suds enema without 
effect.   He received a total of Dilaudid 4 mg IV for his back 
pain.  He was admitted to the ___ service.  Vitals prior to 
transfer were T 98.4, HR 92, BP 133/84, RR 15, and SpO2 96% on 
RA.
.
On arrival to the floor, he reported continued back pain with 
radiation to the legs and abdominal bloating, but denied 
abdominal pain, nausea, or vomiting.  He did not have a bowel 
movement in the ED.  Review of systems was otherwise negative.
.
REVIEW OF SYSTEMS:
No fevers, chills, fatigue, or malaise.  No headache, vertigo, 
presyncope, syncope, vision changes, or hearing changes.  
Neuropathy related to Velcade unchanged.  No chest pain, 
pressure, palpitations, SOB, DOE, orthopnea, PND, cough, or 
hemoptysis.  No abdominal pain, nausea, vomiting, diarrhea, 
melena or BRBPR.  No hematuria, dysuria, frequency, urgency, 
hesitancy, or incontinence.  Back and leg pain as above.  No 
rashes or skin lesions.
 
Past Medical History:
ONCOLOGICAL HISTORY: 
# Multiple Myeloma
-- (___) Diagnosed after pathological T4 vertebral fracture
-- (___) Skeletal survey without other lesions
-- (___) T4 vertebrectomy and anterior T3-5 fusion
-- (___) Pathology of spinal lesion shows plasmacytoma
-- (___) Posterior T1-T8 fusion
-- (___) Bone marrow biopsy with plasma cell dyscrasia
-- Hypocellular bone marrow with trilineage hematopoiesis and 
clusters of plasma cells. CD138 highlight small clusters of 
plasma cells, which by kappa lambda staining are kappa 
monotypic.
-- Normal cytogenetics
-- (___) Started XRT and Velcade/Decadron
-- (___) Enrolled in protocol ___ (Blockage of PD-1 In 
Conjunction with the Dendritic Cell/Myeloma Vaccines following 
Stem Cell Transplantation)
-- (___) Skeletal survey without other lesions
-- (___) Cellular marrow aspirate with maturing trilineage 
hematopoiesis. Diagnostically inadequate due to lack of core 
biopsy.
.
OTHER PAST MEDICAL HISTORY:
Hyperlipidemia

 
Social History:
___
Family History:
Negative for neoplasm, immunosuppression, bleeding, or clotting 
disorders. Mom died in ___ ___ disease. Father died 
at ___ of heart disease.

 
Physical Exam:
Admission PE:
VS: T 98.1, BP 150/90, HR 80, RR 20
Gen: Middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, OP benign.
Neck: Supple, full ROM.  JVP not elevated.  No cervical 
lymphadenopathy.
Back: Long midline surgical scar.  No point tenderness along 
spinous processes or paraspinal muscles.  Negative straight leg 
raise test bilaterally.
CV: RRR with normal S1, S2.  No M/R/G.  No S3 or S4.
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes, or rhonchi.
Abd: Bowel sounds present.  Moderately distended and tympanic.  
Mild tenderness to palpation diffusely.
Ext: WWP.  Digital cap refill <2 sec.  No C/C/E.  Distal pulses 
intact radial 2+, DP 2+, ___ 2+.
Skin: Multiple surgical incision scars.  No rashes, ulcers, or 
other lesions noted.
Neuro: CN II-XII grossly intact.  Sensation to light touch 
intact in lower extremities.  Strength ___ in all extremities.

Discharge PE:
VS: T 97.5, BP 132/78, HR 82, RR 18, O2sat 97%RA
Gen: Middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. PERRL, EOMI. MMM, OP clear.
CV: RRR with normal S1, S2.  No murmurs, rubs, or gallops. 
Chest: CTAB without crackles, wheezes, or rhonchi.
Abd: + Bowel sounds.  Soft, nontender, nondistended, passing 
___. No stool on vault.
Back: Long midline surgical scar and scar along left scapula.  
No point tenderness along spinous processes or paraspinal 
muscles.
Ext: WWP. No C/C/E. Distal pulses intact DP 2+, ___ 2+.
Neuro: Alert and oriented. CN II-XII grossly intact.  Sensation 
to light touch intact in lower extremities.  Strength ___ in all 
extremities.
 
Pertinent Results:
Admission Labs:
___ 10:15AM BLOOD WBC-5.4 RBC-3.96* Hgb-11.4* Hct-34.4* 
MCV-87 MCH-28.8 MCHC-33.1 RDW-15.6* Plt Ct-76*
___ 12:10AM BLOOD WBC-6.9 RBC-4.01* Hgb-11.5* Hct-33.9* 
MCV-85 MCH-28.7 MCHC-33.9 RDW-16.3* Plt Ct-81*
___ 12:10AM BLOOD Neuts-81* Bands-1 Lymphs-9* Monos-7 Eos-0 
Baso-0 ___ Metas-1* Myelos-1*
___ 12:10AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Tear ___
___ 10:15AM BLOOD Glucose-74 UreaN-9 Creat-0.6 Na-142 K-3.6 
Cl-111* HCO3-22 AnGap-13
___ 12:10AM BLOOD Glucose-86 UreaN-13 Creat-0.5 Na-142 
K-3.2* Cl-107 HCO3-24 AnGap-14
___ 12:10AM BLOOD ALT-30 AST-25 AlkPhos-83 TotBili-0.5
___ 10:15AM BLOOD Calcium-7.8* Phos-2.5* Mg-2.2
___ 12:10AM BLOOD Calcium-8.3* Phos-3.3 Mg-2.3

Imaging:
___ CTU (ABD/PEL) W/O CONTRAST: WET READ: 1. Marked fecal 
loading in the ascending and transverse colon. Normal bowel gas 
in the sigmoid. The rectum is most collapsed. 2. No small bowel 
obstruction. 3. 5 mm non-obstructive stone in the left kidney. 
No hydroureteronephrosis in either kidney. 4. s/p lumbar spinal 
fusion. Unchanged alignment of the visualized 
thoracolumbar spine. 
___ MR ___ & W/O CONTRAST: No evidence of focal bony 
abnormalities to indicate deposits from myeloma or metastatic 
disease. Multilevel mild degenerative changes. No evidence of 
spinal stenosis or high-grade foraminal narrowing. No evidence 
of epidural abscess, discitis, osteomyelitis. 
___ KUB: Newly appeared dilated small bowel loops in 
particular in the mid abdomen with several air-fluid levels 
noted. The findings are nonspecific and might reflect ileus as 
well as developing small-bowel obstruction.  Correlation with 
clinical findings and repeated cross-sectional imaging if needed 
might be suggested. No evidence of free air is seen on the 
current radiograph. 
___ KUB: 1. Dilated small bowel with air-fluid levels, which 
is mildly worse than yesterday's study. This may represent mild 
obstruction in the setting of severe constipation versus ileus. 
2. No evidence of free air.  
___ CT abdomen: ABDOMEN: The lung bases demonstrate minimal 
dependent atelectasis without pleural effusion. No pericardial 
effusion is seen. Evaluation of intra-abdominal organs is 
limited in the absence of intravenous contrast.  Within this 
limitation, the liver, spleen, gallbladder, pancreas, adrenal 
glands, and right kidney appear normal. A 4-mm non-obstructive 
calculus is seen in the left kidney. There is a prominent left 
extrarenal pelvis without hydroureter. There is no free air or 
ascites. The stomach and small bowel appear normal. The 
ascending colon demonstrates a large amount of stool. The 
transverse colon demonstrates gaseous distention with a fluid 
level. The descending colon is normal in caliber with a small 
amount of stool and fluid.  Air and fluid are seen in the 
rectum. There is no small bowel dilation.    
PELVIS: The bladder, seminal vesicles, and prostate are normal 
other than 
prostatic calcifications.   There are no lymph nodes which meet 
criteria for pathologic enlargement.  Aortic calcifications are 
seen. Post-surgical changes at T4 are incompletely imaged. 
Harvest site in the right iliac is again seen. 
___ Tspine: The visualized intrathoracic structures 
demonstrate subsegmental atelectasis versus scarring in the left 
mid lung. The heart and mediastinum are unchanged. Surgical clip 
is seen adjacent to the right superior mediastinum. Status post 
T4 corpectomy with cage placement and lateral fusion from T3-T5. 
Status post posterior spinal fusion from T1-T9. The hardware is 
intact and unchanged in position. No change in thoracic spine 
alignment. No new fractures. 
___ KUB: Decreased small bowel dilation compared to 
abdominal x-ray on ___ with less air-fluid levels. 
No evidence of free air. These findings are consistent with 
abdominal CT done yesterday. 
___ Echo: The left atrium and right atrium are normal in 
cavity size. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is a trivial/physiologic 
pericardial effusion. Compared with the prior study (images 
reviewed) of ___, the findings are similar.
___ KUB: FINDINGS: There are a few scattered air-fluid 
levels. There is no small or large bowel dilation. There is no 
free air. The osseous structures are unremarkable. Spinal 
hardware is seen in the most superior part of the film.  There 
are no soft tissue calcifications. IMPRESSION: No evidence of 
obstruction. No evidence of free air. 

Discharge Labs:
___ 05:00AM BLOOD WBC-4.6 RBC-3.71* Hgb-10.9* Hct-31.4* 
MCV-85 MCH-29.4 MCHC-34.8 RDW-16.2* Plt ___
___ 05:00AM BLOOD Neuts-73* Bands-0 Lymphs-15* Monos-9 
Eos-2 Baso-1 ___ Myelos-0
___ 05:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-OCCASIONAL Polychr-NORMAL
___ 05:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 05:00AM BLOOD ___ PTT-26.6 ___
___ 05:00AM BLOOD Glucose-77 UreaN-3* Creat-0.6 Na-144 
K-3.6 Cl-108 HCO3-28 AnGap-12
___ 05:00AM BLOOD ALT-26 AST-24 LD(LDH)-250 AlkPhos-81 
TotBili-0.7
___ 05:00AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.2
 
Brief Hospital Course:
Primary reason for admission: The patient is a ___ year old male 
with a recent diagnosis of multiple myeloma in ___ with T4 
plasmacytoma s/p spinal fusion and XRT, now undergoing 
Velcade/Decadron C4 who presents with severe back pain and 
constipation, likely due to velcade autonomic neuropathy.

Active Issues:

# Constipation: He has a history of constipation, likely a side 
effect of velcade, which was made worse with his prior narcotic 
regimen needed for pain control.  He stopped taking a bowel 
regimen after discontinuing Morphine XR but continued to take 
dilaudid in the week PTA, with only a few doses of Senna.  Tried 
lactulose without success. He had not had a bowel movement in >7 
days PTA. CT abdomen showed marked fecal loading in the 
ascending and transverse colon, normal bowel gas in the sigmoid, 
and a mostly collapsed rectum. He received Methylnaltrexone 12 
mg SC in the on ___, which did not help. GI and Surgery 
consults recommend continued golytely, as long as tolerating. 
___ KUB with presence of stool diffusely, improved air fluid 
levels. TSH WNL. Nontender, nondistended on exam, passing liquid 
golytely. Mag citrate, fleets enema, large volume tap water 
enema, and neostigmine were tried without improvement. Morphine 
and dilaudid were avoided, patient given a few doses of fentanyl 
over admission for pain. Patient has been passing golytely 
without problems.  Abdomen is not distended and patient has been 
tolerating PO food X2 days. Primary team and GI felt patient 
could go home with close follow up with Dr. ___ possibly 
GI follow up if problem persists.  Patient was discharged on 
miralax TID.

# Multiple Myeloma: He was recently diagnosed with multiple 
myeloma, primarily localized to a T4 plasmacytoma, but with 
evidence of systemic involvement on initial BM biopsy.  He is 
currently undergoing treatment with XRT and Velcade/Decadron, 
completing his fourth cycle recently.  He is enrolled in 
protocol ___ BM biopsy shows <5% plasma cells. 
Patient is in remission.  Can likely proceed with ASCT and will 
see Dr. ___ ___ to establish a plan for SCT. 
Patient got some of his pre-SCT w/u in the hospital (Echo, CXR, 
PFTs). Acyclovir 400mg PO TID prophylaxis was continued over 
admission.

# Back Pain: Patient presented with significant back pain. MRI 
___ did not show any acute etiology for his back pain.  It 
is likely from chronic spinal issues related to his disease.  
His constipation may also be contributing. Back pain resolved 
within a day of admission. Dr. ___ looked at ___ films 
and relayed that patient no longer requires back brace. Patient 
performed back exercises to strengthen muscles.

# Hypokalemia: He had K 3.2 on admission and was repleted in the 
ED with Poatassium chloride 40 mEq IV once. Potassium was 
monitored over admission and remained within normal limits.

# Anemia/Thrombocytopenia: His low counts are likely related to 
his recent chemotherapy.  Hct during admission remained within 
baseline range of 33.0-36.0. He does not have any evidence of 
active bleeding and is not jaundiced. He did not require any 
transfusions over the admission.

# Foot pain: Patient began complaining of several days of 
bilateral foot pain and restlessness, worse at night during the 
admission. Electrolytes were monitored and Ca+ and phosphorus 
were releted when low. Symptoms could be an additional 
neuropathy due to Velcade. Gabapentin was not started while 
patient had this issue of constipation.

Chronic Issues:

# CAD/Hyperlipidemia: Continued home Atorvastatin 20 mg PO 
daily, held Aspirin 81 mg PO daily.

Transitional Issues:
Patient has close follow up with Dr. ___ on ___, 
___ to proceed with MM treatment.  If constipation 
remains an issue (not tolerating PO food, distension, pain), 
patient will need GI follow up.  If obstructive symptoms, 
patient will have to return to the hospital.
 
Medications on Admission:
Aspirin 81 mg PO daily
Acyclovir 400 mg PO TID
Atorvastatin 20 mg PO daily
Dexamethasone 40 mg PO weekly
Hydromorphone ___ mg PO Q8H PRN pain
Omeprazole 20 mg PO daily
Ondansetron 8 mg PO Q8H PRN nausea
Prochlorperazine 10 mg PO Q8H PRN nausea
Lorazepam 0.5-1 mg PO Q6H PRN nausea or anxiety
Senna 8.6 mg PO BID PRN constipation
 
Discharge Medications:
1. atorvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every eight (8) hours as needed for nausea.  
5. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for anxiety.  
6. ondansetron HCl 8 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours as needed for nausea.  
7. Miralax 17 gram Powder in Packet Sig: One (1) packet PO every 
eight (8) hours.
Disp:*90 packets* Refills:*2*
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Constipation due to Velcade autonomic 
neuropathy

Secondary Diagnosis: Multiple Myeloma and T4 Plasmacytoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.  You were admitted for 
constipation and back pain. Imaging of your back did not 
indicate the back pain was caused by a structural problem in 
your spine. Xrays of your back showed good allignment and no new 
fractures.  You were allowed to ambulate without your back brace 
on.  We attempted to assist you in having a bowel movement with 
many liters of Golytely, as well as trials of Magnesium Citrate, 
Neostigmine, methylnaltrexone, and enemas. Although you did not 
have a significant bowel movement, your imaging was improved 
over the admission and you were no longer having pain or 
distension. Additionally, you are tolerating food and passing 
fluids. You are being discharged home with close follow up with 
Dr. ___.

Please make the following changes to your home medications:
START Miralax orally three times a day.
START Docusate Sodium 100mg twice daily.
STOP Hydromorphone.
STOP Aspirin 81mg.

Please continue the remainder of your home medications as 
prescribed.
 
Followup Instructions:
___